US08017773B2
Step 3: N-{trans-4-[(4-isopropylpiperazin-1-yl)carbonyl]cyclohexyl}propane-1-sulfonamide
A mixture of 32.6 mg (0.1 mmol) trans-(4-amino-cyclohexyl)-(4-isopropyl-piperazin-1-yl)-methanone, dihydrochloride, 28 mg (0.2 mmol) propane-1-sulfonyl chloride and 101 mg (1 mmol) NEt3 in 2 ml DCM was stirred for 16 h at 40° C. After evaporation methanol and DMF were added and the mixture was subjected to preparative HPLC purification on reversed phase eluting with a gradient of acetonitrile/water (0.1% NEt3). The combined product fractions were evaporated to dryness to yield 13.9 mg (39%) of the title compound. MS (m/e): 360.4 (MH+).

reactant | trans-(4-amino-cyclohexyl)-(4-isopropyl-piperazin-1-yl)-methanone, dihydrochloride | 0.1 mmol, 32.6 mg | Cl.Cl.N[C@@H]1CC[C@H](CC1)C(=O)N1CCN(CC1)C(C)C
reactant | propane-1-sulfonyl chloride | 0.2 mmol, 28 mg | C(CC)S(=O)(=O)Cl | C3H7ClO2S
reactant | NEt3 | 1 mmol, 101 mg | CCN(CC)CC | C6H15N
solvent | DCM | 2 ml | C(Cl)Cl | CH2Cl2
product | N-{trans-4-[(4-isopropylpiperazin-1-yl)carbonyl]cyclohexyl}propane-1-sulfonamide | 13.9 mg, 39% | C(C)(C)N1CCN(CC1)C(=O)[C@@H]1CC[C@H](CC1)NS(=O)(=O)CCC | C17H33N3O3S
